US06271228B1
5-[2-ethoxy-5-(4-ethylpiperazin-1-ylsulphonyl)pyridin-3-yl]-3-ethyl-2-(6-methoxypyridin-2-yl)methyl-2,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one;
5-[2-i-butoxy-5-(4-ethylpiperazin-1-ylsulphonyl)pyridin-3-yl]-2,3-diethyl-2,6-dihydro-7H-pyrazolo[[4,3-d]pyrimidin-7-one; 5-[2-ethoxy-5-(4-ethylpiperazin-1-ylsulphonyl)pyridin-3-yl]-3-ethyl-2-[1-pyridin-2-yl)ethyl]2,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one; 5-[2-Ethoxy-5-(4-ethylpiperazin-1-ylsulphonyl)pyridin-3-yl]-3-ethyl-1-(2-methoxyethyl)-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one; 3-Ethyl-5-[5-(4-ethylpiperazin-1-ylsulphonyl)-2-propoxyphenyl]-2-(pyridin-2-yl)methyl-2,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one; 5-(2-ethoxy-5-(2-(4-morpholino)acetyl)phenyl)-1-methyl-3-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one or the pharmaceutically acceptable salts thereof.

reactant | 2,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | N=1NC=C2N=CNC(C21)=O | C5H4N4O
reactant | 5-[2-Ethoxy-5-(4-ethylpiperazin-1-ylsulphonyl)pyridin-3-yl]-3-ethyl-1-(2-methoxyethyl)-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | C(C)OC1=NC=C(C=C1C=1NC(C2=C(N1)C(=NN2CCOC)CC)=O)S(=O)(=O)N2CCN(CC2)CC | C23H33N7O5S
reactant | 3-Ethyl-5-[5-(4-ethylpiperazin-1-ylsulphonyl)-2-propoxyphenyl]-2-(pyridin-2-yl)methyl-2,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | C(C)C=1N(N=C2C1N=C(NC2=O)C2=C(C=CC(=C2)S(=O)(=O)N2CCN(CC2)CC)OCCC)CC2=NC=CC=C2 | C28H35N7O4S
product | 5-[2-ethoxy-5-(4-ethylpiperazin-1-ylsulphonyl)pyridin-3-yl]-3-ethyl-2-(6-methoxypyridin-2-yl)methyl-2,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | C(C)OC1=NC=C(C=C1C=1NC(C=2C(N1)=C(N(N2)CC2=NC(=CC=C2)OC)CC)=O)S(=O)(=O)N2CCN(CC2)CC | C27H34N8O5S
